US06610747B2
5-(Aminosulfonyl)-2-fluoro-N-methylbenzamide
To a solution of 5-(aminosulfonyl)-2-fluorobenzoic acid [prepared according to Chem. Pharm. Bull. 1995, 43, 582-7] (22.98 g, 105 mmol) in THF (500 mL) at room temperature under nitrogen was added carbonyldiimidazole (17 g, 105 mmol). After stirring for 2.25 h a solution of methylamine in THF (2M, 70 mL, 140 mmol) was added dropwise and the reaction was allowed to stir for 18 h. The crude reaction mixture was concentrated to a low volume and EtOAc (150 mL) was added to the resulting thick oil. This mixture was stirred and a granular precipitate formed which was collected by filtration. This crude product, contaminated with imidazole, was suspended in DCM (300 mL) and heated at reflux for 5 h. After cooling to room temperature the mixture was filtered to give the desired product (19.8 g, 81%) containing <2% w/w imidazole; 1H NMR δH (300 MHz, d4-MeOH) 2.97 (3H, s), 7.40 (1H, t), 8.05 (1H, m), 8.29 (1H, d); MS m/z (TS+) 250 (MNH4+).

reactant | 5-(aminosulfonyl)-2-fluorobenzoic acid | 105 mmol, 22.98 g | NS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)F | C7H6FNO4S
reactant | carbonyldiimidazole | 105 mmol, 17 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | CN | CH5N
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 140 mmol, 2M, 70 mL | C1CCOC1 | C4H8O
product | 5-(Aminosulfonyl)-2-fluoro-N-methylbenzamide | 19.8 g, 81% | NS(=O)(=O)C=1C=CC(=C(C(=O)NC)C1)F | C8H9FN2O3S
